US06339093B1
2-Chloro-4-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline (0.44 g, 1.5 mmol) and (RS)-3-amino-1,2-propanediol (0.82 g, 9.0 mmol) were mixed and heated at 150-160° C. for 5 hours. The reaction mixture was cooled to room temperature and water (15 ml) was added. The resulting solid was filtered, dried and chromatographed over silica gel (CH2Cl2—MeOH, 19:1 then 9:1) to provide a white foam which was dissolved in MeOH. HCl—Et2O was added to provide (RS)-3-[4-(3,4-dihydro-1H-isoquinolin-2-yl)-quinolin-2-ylamino]-propane-1,2-diol hydrochloride (0.4 g, 69%) as an offwhite foam, MS: m/=349 (M+).

reactant | 2-Chloro-4-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline | 1.5 mmol, 0.44 g | ClC1=NC2=CC=CC=C2C(=C1)N1CC2=CC=CC=C2CC1 | C18H15ClN2
reactant | (RS)-3-amino-1,2-propanediol | 9.0 mmol, 0.82 g | NCC(CO)O | C3H9NO2
reactant | water | 15 ml | O | H2O
reactant | HCl Et2O | Cl.CCOCC
solvent | MeOH | CO | CH4O
product | (RS)-3-[4-(3,4-dihydro-1H-isoquinolin-2-yl)-quinolin-2-ylamino]-propane-1,2-diol hydrochloride | 0.4 g, 69% | Cl.C1N(CCC2=CC=CC=C12)C1=CC(=NC2=CC=CC=C12)NCC(CO)O | InChI=1S/C21H23N3O2.ClH/c25-14-17(26)12-22-21-11-20(18-7-3-4-8-19(18)23-21)24-10-9-15-5-1-2-6-16(15)13-24;/h1-8,11,17,25-26H,9-10,12-14H2,(H,22,23);1H
